US04414217
To a mixture of 142.6 g (0.50 mole) of 4-bromo-2,6-di(t-butyl)phenol and 200 ml of dry acetonitrile was added 115 g of bis(trimethylsilyl)acetamide. The reaction mixture was heated on a steam bath for 15 hours with a reflux condenser. The reflux mixture was evaporated to provide a residue which was recrystallized from hexane and then from petroleum ether to provide white solid 2,6-di(t-butyl)-4-bromotrimethylsilylphenol. This structure was confirmed by infrared and nuclear magnetic resonance spectral analysis.

reactant | 4-bromo-2,6-di(t-butyl)phenol | 0.50 mole, 142.6 g | BrC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C14H21BrO
reactant | bis(trimethylsilyl)acetamide | 115 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 2,6-di(t-butyl)-4-bromotrimethylsilylphenol | C(C)(C)(C)C1=C(C(=CC(=C1[Si](C)(C)C)Br)C(C)(C)C)O | C17H29BrOSi
